US07091353B2
Methyl-3-[(cyclopropylcarbonylamino)methyl]-2-(methoxycarbonyl)benzoate
Triethylamine (1.87 g, 18 mmol) was added dropwise to a stirred suspension of methyl-3-(aminomethyl)-2-(methoxycarbonyl)benzoate hydrochloride (2.0 g, 7 mmol) in dichloromethane (40 ml). The mixture was cooled in an ice bath to 4° C. Cyclopropylcarbonyl chloride (0.99 g, 9 mmol) was added slowly at 4–8° C. After addition, the mixture was stirred in ice bath for 30 min and then warmed to room temperature for 2 hours. The mixture was washed with water (2×30 ml), brine (30 ml) and dried. Solvent was removed in vacuo and the product was purified by flash chromatography (dichloromethane/ethyl acetate 9 to 1) to give 2.1 g (93%) of the product as a white solid: 1H NMR (CDCl3) (7.87 (d, J=7.8 Hz, 1H), 7.63 (d, J=7.7 Hz, 1H), 7.46 (t, J=7.77 Hz, 1H), 6.31 (m, 1H), 4.43 (d, J=6.0 Hz, 2H), 3.95 (s, 3H), 3.90 (s, 3H), 1.36–1.29 (m, 1H), 0.99–0.93 (m, 2H), 0.76–0.69 (m, 2H).

reactant | Triethylamine | 18 mmol, 1.87 g | C(C)N(CC)CC | C6H15N
reactant | methyl-3-(aminomethyl)-2-(methoxycarbonyl)benzoate hydrochloride | 7 mmol, 2.0 g | Cl.COC(C1=C(C(=CC=C1)CN)C(=O)OC)=O
reactant | Cyclopropylcarbonyl chloride | 9 mmol, 0.99 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Methyl-3-[(cyclopropylcarbonylamino)methyl]-2-(methoxycarbonyl)benzoate | 2.1 g, 93% | COC(C1=C(C(=CC=C1)CNC(=O)C1CC1)C(=O)OC)=O | C15H17NO5
